data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "COc1ccc(Cl)c(C(=O)C2C3CCC2C3)c1", "products": "COc1ccc(Cl)c([C]([O])C2C3CCC2C3)c1"}, {"reactants": "COc1ccc(Cl)c([C]([O])C2C3CCC2C3)c1", "products": "COc1ccc(Cl)c(C([O])=CC2C[CH]CC2)c1"}, {"reactants": "COc1ccc(Cl)c(C([O])=CC2C[CH]CC2)c1", "products": "COc1ccc(Cl)c(C(O)=CC2C=CCC2)c1"}, {"reactants": "COc1ccc(Cl)c(C(O)=CC2C=CCC2)c1", "products": "COc1ccc(Cl)c(C(=O)CC2C=CCC2)c1"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1cc(Cl)c(NN=CCc2ccccc2)cc1F.Cl[Zn]Cl", "products": "COc1cc(Cl)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F"}, {"reactants": "COc1cc(Cl)c(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COc1cc(Cl)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F.[H+]"}, {"reactants": "COc1cc(Cl)c(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1F", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(Cl)ccc2F)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cc(Cl)ccc2F)C(=N)C=C1", "products": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F"}, {"reactants": "COc1cc(Cl)c(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1F", "products": "COc1cc(Cl)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1cc(Cl)c2c(c1F)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1cc(Cl)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1cc(Cl)c2c(c1F)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1cc(Cl)c2c(c1F)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc(Cl)c2c(c1F)C(c1ccccc1)C=[NH+]2", "products": "COc1cc(Cl)c2[nH]cc(-c3ccccc3)c2c1F.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1OC.C=O", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1OC"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1OC", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1OC"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1OC", "products": "C=[N+](O)[C@@H]1C(OC)[C@H](CC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(OC)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(OC)[C@H](CC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(OC)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "CC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1OC"}]}
{"conditions": [{"role": "reagent", "text": "hv"}], "steps": [{"reactants": "O=C(c1ccc(Cl)cc1Cl)C1C2CCC1C2", "products": "[O][C](c1ccc(Cl)cc1Cl)C1C2CCC1C2"}, {"reactants": "[O][C](c1ccc(Cl)cc1Cl)C1C2CCC1C2", "products": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)cc1Cl"}, {"reactants": "[O]C(=CC1C[CH]CC1)c1ccc(Cl)cc1Cl", "products": "OC(=CC1C=CCC1)c1ccc(Cl)cc1Cl"}, {"reactants": "OC(=CC1C=CCC1)c1ccc(Cl)cc1Cl", "products": "O=C(CC1C=CCC1)c1ccc(Cl)cc1Cl"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1C.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1C.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)C(OC)CC1C", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2C.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)C(OC)CC2C", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(C(=O)CC41c4ccccc4N(C)C31)C(OC)CC2C"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1ccc(C)c(OC)c1)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(OC)c1)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1ccc(C)c(OC)c1)C(C)C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1C"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)C[CH]3[CH2][RhH]32)ccc1C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1C"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2[CH2][RhH])ccc1C.[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1C"}, {"reactants": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2C[C](=O)[RhH])ccc1C", "products": "COc1cc([Si]2(c3ccccc3)OC(C(C)C)CC2CC=O)ccc1C.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "cat. Rh2(OAc)4"}], "steps": [{"reactants": "CCC1(C(=O)C(=[N+]=[N-])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1F.[Rh]", "products": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1F.N#N"}, {"reactants": "CCC1(C(=O)[C](=[Rh])C(=O)OC)C(=O)N(C(=O)Cc2cn(C)c3ccccc23)CC(F)C1F", "products": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2F.[Rh]"}, {"reactants": "CCC12C(=O)[C-](C(=O)OC)[O+]=C1N(C(=O)Cc1cn(C)c3ccccc13)CC(F)C2F", "products": "CCC12C(=O)C3(C(=O)OC)OC14N(CC(F)C2F)C(=O)CC41c2ccccc2N(C)C31"}]}
